US04490369
1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{3,4-dimethoxy-phenyl}-ethyl)-amino]propane dihydrochloride
22 gm (0.075 mol) of N-[3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-methylamine were heated with 7.2 gm (0.036 mol) of 2-(3,4-dimethoxyphenyl)-ethyl-chloride for 20 hours at 140° C. After dissolving the reaction product in methylene chloride, the solution was washed twice with 2N sodium hydroxide and twice with water, dried over sodium sulfate and evaporated. The residue was purified by chromatography on silica gel (particle size: 0.063-0.2 mm; eluant; methylene chloride/methanol=10:1). The product thus obtained was dissolved in acetone, and the dihydrocyloride was precipitated with ethereal hydrochloric acid.

reactant | N-[3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-methylamine | 0.075 mol, 22 gm | COC1=CC2=C(CC(N(CC2)CCCNC)=O)C=C1OC | C16H24N2O3
reactant | 2-(3,4-dimethoxyphenyl)-ethyl-chloride | 0.036 mol, 7.2 gm | COC=1C=C(C=CC1OC)CCCl | C10H13ClO2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | acetone | CC(=O)C | C3H6O
product | 1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{3,4-dimethoxy-phenyl}-ethyl)-amino]propane dihydrochloride | Cl.Cl.COC1=CC2=C(CC(N(CC2)CCCN(CCC2=CC(=C(C=C2)OC)OC)C)=O)C=C1OC | InChI=1S/C26H36N2O5.2ClH/c1-27(13-9-19-7-8-22(30-2)23(15-19)31-3)11-6-12-28-14-10-20-16-24(32-4)25(33-5)17-21(20)18-26(28)29;;/h7-8,15-17H,6,9-14,18H2,1-5H3;2*1H
